US07919519B2
Methyl 1-((4-(5-benzylfuro[3,2-b]pyridin-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylate
Synthesized according to Scheme B3 and general procedure G from 6-benzyl-2-iodopyridin-3-ol (0.500 g, 1.61 mmol) and methyl 1-(4-ethynyl-3-fluorobenzyl)azetidine-3-carboxylate (0.477 g, 1.93 mmol). 1H NMR (300 MHz, CDCl3) δ ppm 7.93 (t, J=7.9 Hz, 1H), 7.65 (d, J=8.5 Hz, 1H), 7.37 (d, J=3.1 Hz, 1H), 7.10-7.33 (m, 7H), 7.04 (d, J=8.5 Hz, 1H), 4.27 (s, 2H), 3.72 (s, 3H), 3.65 (s, 2H), 3.48-3.60 (m, 2H), 3.30-3.40 (m, 3H). MS (ESI) m/z: Calculated; 430.2 Observed: 431.1 (M++1).

reactant | 6-benzyl-2-iodopyridin-3-ol | 1.61 mmol, 0.500 g | C(C1=CC=CC=C1)C1=CC=C(C(=N1)I)O | C12H10INO
reactant | methyl 1-(4-ethynyl-3-fluorobenzyl)azetidine-3-carboxylate | 1.93 mmol, 0.477 g | C(#C)C1=C(C=C(CN2CC(C2)C(=O)OC)C=C1)F | C14H14FNO2
product | Methyl 1-((4-(5-benzylfuro[3,2-b]pyridin-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylate | C(C1=CC=CC=C1)C1=CC=C2C(=N1)C=C(O2)C2=C(C=C(C=C2)CN2CC(C2)C(=O)OC)F | C26H23FN2O3
